US07576217B2
1-(6-Bromo-2-isobutyl-4-phenyl-quinolin-3-yl)-ethanone
The title compound was prepared from (2-Amino-5-bromo-phenyl)-phenyl-methanone [example A16] and 6-methyl-2,4-heptanedione according to the procedure of example 1. Yield: 9%. MS: m/z=381 (M).

reactant | (2-Amino-5-bromo-phenyl)-phenyl-methanone | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=CC=C1 | C13H10BrNO
reactant | 6-methyl-2,4-heptanedione | CC(CC(CC(C)=O)=O)C | C8H14O2
product | 1-(6-Bromo-2-isobutyl-4-phenyl-quinolin-3-yl)-ethanone | Yield: 9% | BrC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)C(C)=O)C1=CC=CC=C1 | C21H20BrNO
